US05294734
58 g (0.21 mol) of benzyl 5-ethoxycarbonylmethoxypentyl ether are dissolved in 580 ml of tetrahydrofuran and the solution is hydrogenated under normal pressure at room temperature by addition of 5.8 g of 10% Pd/C as catalyst. Upon cessation of hydrogenation, the catalyst is removed by filtration and the filtrate is concentrated by evaporation. Distillation of the residue gives 5-ethoxycarbonylmethoxypentanol as a colourless liquid of b.p. 107°-111° C./2.10-2 torr.

reactant | benzyl 5-ethoxycarbonylmethoxypentyl ether | 0.21 mol, 58 g | C(C)OC(=O)COCCCCCOCC1=CC=CC=C1 | C16H24O4
solvent | tetrahydrofuran | 580 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 5.8 g | [Pd] | Pd
product | 5-ethoxycarbonylmethoxypentanol | C(C)OC(=O)COCCCCCO | C9H18O4
